US04113731
2-Phenylthiazolo[5,4-c]isoquinolin-5(4H)-one
15 Grams of crude 3-(2,4-diphenylthiazol-5-yl)-1-phenylurea (m.p. 240°-260° C.), prepared following substantially the procedure described in the first part of Example 5, is heated to 300° C. on a metal bath and maintained at this temperature for about 8 minutes. The reaction mass is then cooled and sludged with ethyl acetate. On crystallization from dimethylformamide, 6.95 g of the title compound is obtained. M.p. >310° C.; yield 62%.

reactant | 3-(2,4-diphenylthiazol-5-yl)-1-phenylurea | C1(=CC=CC=C1)C=1SC(=C(N1)C1=CC=CC=C1)NC(NC1=CC=CC=C1)=O | C22H17N3OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Phenylthiazolo[5,4-c]isoquinolin-5(4H)-one | 6.95 g, yield 62% | C1(=CC=CC=C1)C=1SC=2NC(C=3C=CC=CC3C2N1)=O | C16H10N2OS
